US04608079
Thiolacetic acid (49 mL, 0.69 mol) is added to potassium carbonate (93.4 g, 0.68 mol) dissolved in water (150 mL). Ethanol (260 mL) is added and then 4-bromobutyronitrile is added at 15° to 28° C. and the reaction mixture stirred at room temperature for 16 hours. The resulting inorganic solids are filtered off and the filtrate extracted with toluene. The organic layer is separated, dried over anhydrous Na2SO4 and concentrated to give the desired 4-mercaptoacetyl butyronitrile as a yellow oil.

reactant | Thiolacetic acid | 0.69 mol, 49 mL | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | potassium carbonate | 0.68 mol, 93.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethanol | 260 mL | C(C)O | C2H6O
reactant | 4-bromobutyronitrile | BrCCCC#N | C4H6BrN
solvent | water | 150 mL | O | H2O
product | 4-mercaptoacetyl butyronitrile | SCC(=O)CCCC#N | C6H9NOS
